US07943619B2
b) C-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-methylamine
As described for example 78b, 2-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-isoindole-1,3-dione (6.26 g, 19 mmol) was converted, instead of 2-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-isoindole-1,3-dione, to the title compound (2.95 g, 77%) which was obtained as a yellow oil. MS: m/e=207.3 [M+H]+.

reactant | 2-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-isoindole-1,3-dione | 19 mmol, 6.26 g | FC=1C=C(C=CC1)C1=NOC(=C1CN1C(C2=CC=CC=C2C1=O)=O)C | C19H13FN2O3
reactant | 2-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-isoindole-1,3-dione | FC1=CC=C(C=C1)C1=NOC(=C1CN1C(C2=CC=CC=C2C1=O)=O)C | C19H13FN2O3
product | C-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-methylamine | 2.95 g, 77% | FC=1C=C(C=CC1)C1=NOC(=C1CN)C | C11H11FN2O
